US04761374
Measured in accordance with the method of Yamada et al. as follows. In 4.0ml of a reaction mixture containing 10 micromoles of L-tryptophan, 0.4 micromole of pyridoxalphosphate (PLP)), 200 micromoles of K2HPO4 -KH2PO4 (pH 8.0), the enzyme is incubated at 65° C. for 10 minutes. Then, 1.0 ml of a 30% aqueous solution of trichloroacetic acid (TCA) is added to stop the reaction. Indole formed in the reaction system is quantitatively determined by the method of E. McEvoy-Bowe [The ANALYST, vol. 88, pages 893-894 (1963)]. The activity is expressed in units in which 1 U is the amount in micromoles of indole formed during 1 minute.

reactant | L-tryptophan | 10 micromoles | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | pyridoxalphosphate | 0.4 micromole | CC1=NC=C(C(=C1O)C=O)COP(=O)(O)O | C8H10NO6P
reactant | K2HPO4 KH2PO4 | 200 micromoles, pH 8.0 | OP(=O)([O-])[O-].[K+].[K+].OP(=O)(O)[O-].[K+]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
